US07645789B2
2-Methyl-2-(5-nitro-1H-indol-2-yl)propanamide (200 mg, 0.81 mmol) was suspended in THF (5 ml) and cooled to 0° C. Borane-THF complex solution (1.0 M, 2.4 mL, 2.4 mmol) was added slowly and the mixture was allowed to stir overnight at room temperature. The mixture was cooled to 0° C. and carefully acidified with 3 N HCl. THF was evaporated off, water was added and the mixture was washed with ethylacetate. The aqueous layer was made alkaline with 50% NaOH and the mixture was extracted with ethylacetate. The combined organic layers were dried over magnesium sulfate, filtered and evaporated to give 2-methyl-2-(5-nitro-1H-indol-2-yl)propan-1-amine (82 mg, 43%).

reactant | 2-Methyl-2-(5-nitro-1H-indol-2-yl)propanamide | 0.81 mmol, 200 mg | CC(C(=O)N)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H13N3O3
reactant | HCl | 3 N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-methyl-2-(5-nitro-1H-indol-2-yl)propan-1-amine | 82 mg, 43% | CC(CN)(C)C=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H15N3O2
